US07714134B2
87. N-[3-Cyano-6-(2-hydroxy-ethanoyl)-4,5,6,7-tetrahydro-thieno[2,3-c]pyridin-2-yl]-benzamide
Acetic acid 2{3-cyano-2-[(1-phenyl-methanoyl)-amino]-4,7-dihydro-5H-thieno[2,3-c]pyridin-6-yl}-2-oxo-ethyl ester is stirred on 1N NaOH over night at room temperature. Workup as described in general procedure A3 gives the desired product.

reactant | Acetic acid 2{3-cyano-2-[(1-phenyl-methanoyl)-amino]-4,7-dihydro-5H-thieno[2,3-c]pyridin-6-yl}-2-oxo-ethyl ester | C(#N)C1=C(SC=2CN(CCC21)C(COC(C)=O)=O)NC(=O)C2=CC=CC=C2 | C19H17N3O4S
reactant | NaOH | 1N | [OH-].[Na+]
product | N-[3-Cyano-6-(2-hydroxy-ethanoyl)-4,5,6,7-tetrahydro-thieno[2,3-c]pyridin-2-yl]-benzamide | C(#N)C1=C(SC=2CN(CCC21)C(CO)=O)NC(C2=CC=CC=C2)=O | C17H15N3O3S
